US08808703B2
Step 2: diethyl ((12R,16R)-12-amino-16-dodecanamido-1,1-difluoro-11-oxo-4,7,18-trioxa-14-thia-10-azatriacontyl)phosphonate
A solution of (12R,16R)-12-(((9H-fluoren-9-yl)methoxy)carbonylamino)-16-dodecanamido-1,1-difluoro-11-oxo-4,7,18-trioxa-14-thia-10-azatriacontylphosphonic acid diethyl ester in acetonitrile (0.1M) was stirred at room temperature. Piperidine (final conc. 20%) was then added and the reaction stirred for 30 minutes. After concentration, the crude material was by flash chromatography on a COMBIFLASH® system (ISCO) using a gradient of 0-100% EtOAc/Hex, then 0-10% MeOH/DCM to give the title compound as an off-white solid.

reactant | (12R,16R)-12-(((9H-fluoren-9-yl)methoxy)carbonylamino)-16-dodecanamido-1,1-difluoro-11-oxo-4,7,18-trioxa-14-thia-10-azatriacontylphosphonic acid diethyl ester | C(C)OP(OCC)(=O)C(CCOCCOCCNC([C@H](CSC[C@@H](COCCCCCCCCCCCC)NC(CCCCCCCCCCC)=O)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)(F)F | C56H92F2N3O10PS
reactant | Piperidine | N1CCCCC1 | C5H11N
solvent | acetonitrile | 0.1M | C(C)#N | C2H3N
product | diethyl ((12R,16R)-12-amino-16-dodecanamido-1,1-difluoro-11-oxo-4,7,18-trioxa-14-thia-10-azatriacontyl)phosphonate | N[C@H](C(NCCOCCOCCC(F)(F)P(OCC)(OCC)=O)=O)CSC[C@@H](COCCCCCCCCCCCC)NC(CCCCCCCCCCC)=O | C41H82F2N3O8PS
